US04275079
22.4 g of 1-butyn-3-ol tosylate in 26 g of 2,6-dimethylaniline are stirred at 110° C. for 3 hours. The mixture is then poured into ice-water, extracted with ethyl acetate, dried over sodium sulfate and filtered. The solvent is distilled off to yield N-(1-methyl-2-propynyl)-2,6-xylidine; b.p. 68°-72° C./0.05 Torr; m.p. 32°-33° C.

reactant | 1-butyn-3-ol tosylate | 22.4 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC(C#C)C | C11H12O3S
reactant | 2,6-dimethylaniline | 26 g | CC1=C(N)C(=CC=C1)C | C8H11N
product | N-(1-methyl-2-propynyl)-2,6-xylidine | CC(C#C)NC=1C(=CC=CC1C)C | C12H15N
